US04022833
In a manner similar to that of Example 1, condensation of 1-nonene oxide (120 g.) and 1,3-propanediamine (31.2 g.) and two recrystallizations of the resulting product from methanol gave N,N'-(1,3-propylene)-bis[2-hydroxynonylamine] (I: R= CH3 (CH2)6, R' = H, X= (CH2)3, Z= H) (13.2 g., m.p. 107.0°-109.0° C.).

reactant | 1-nonene oxide | 120 g | C1C(CCCCCCC)O1 | C9H18O
reactant | 1,3-propanediamine | 31.2 g | C(CCN)N | C3H10N2
solvent | methanol | CO | CH4O
product | N,N'-(1,3-propylene)-bis[2-hydroxynonylamine] | C(CCNCC(CCCCCCC)O)NCC(CCCCCCC)O | C21H46N2O2
